US05571821
N-(4-Bromo-3-methyl-5-isoxazolyl)-5-bromothiophene-2-sulfonamide was prepared in the same manner as described in Example 2 from 5-amino-4-bromo-3-methylisoxazole and 5-bromothiophene-2-sulfonyl chloride in 30% yield. Purification was achieved by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 240° C. (dec).

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 5-bromothiophene-2-sulfonyl chloride | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
product | N-(4-Bromo-3-methyl-5-isoxazolyl)-5-bromothiophene-2-sulfonamide | 30% yield | BrC=1C(=NOC1NS(=O)(=O)C=1SC(=CC1)Br)C | C8H6Br2N2O3S2
